US07807672B2
Preparation of 4-(4-Pyrimidin-2-yl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 4-(4-Bromo-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (355 mg; 1.002 mmol); 2-tributylstannanyl-pyrimidine (1.1 g; 2.98 mmol); triphenylphosphine palladium dichloride (35 mg, 0.049 mmol) was stirred in DME (4 ml) at 100° C. overnight. Reaction mixture was cooled to room temperature, diluted with EtOAc (100 ml) and water (50 ml). Separated organic layer, washed with brine, dried over Na2SO4, then chromatographed on silica gel eluting with 70% v/v EtOAc/Hexanes yielding product at solid (110 mg; 31%)

reactant | 4-(4-Bromo-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.002 mmol, 355 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)Br | C16H23BrN2O2
reactant | 2-tributylstannanyl-pyrimidine | 2.98 mmol, 1.1 g | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
solvent | DME | 4 ml | COCCOC | C4H10O2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | water | 50 ml | O | H2O
catalyst | triphenylphosphine palladium dichloride | 0.049 mmol, 35 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(4-Pyrimidin-2-yl-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=CC=C(C=C1)C1=NC=CC=N1 | C20H26N4O2
